US04281148
Into a solution of 2.26 g (0.0102 mole) of trimethylsilyl trifluoromethanesulfonate in 20 ml of benzene was added dropwise a mixed solution of 1.06 g (0.0107 mole) of 1,2-epoxycyclohexane and 2 ml of DBU in 5 ml of benzene at room temperature under an atmosphere of argon. After further agitation for 20 hours at room temperature, the reaction mixture was subjected to column chromatography with silica gel treated with ammonia as the adsorbent. Subsequent distillation of a chromatographic fraction gave 1.51 g of 3-trimethylsiloxycyclohexene boiling at 50° to 60° C. under a pressure of 50 mmHg. The yield was about 87% of the calculated value.

reactant | trimethylsilyl trifluoromethanesulfonate | 0.0102 mole, 2.26 g | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 1,2-epoxycyclohexane | 0.0107 mole, 1.06 g | O1C2C1CCCC2 | C6H10O
reactant | DBU | 2 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ammonia | N | H3N
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 3-trimethylsiloxycyclohexene | 1.51 g, yield was about 87% | C[Si](OC1C=CCCC1)(C)C | C9H18OSi
